US06613942B1
Library Procedure for Indole Alkylation
Indole-5-carboxaldehyde (1.45 g) was dissolved into 8.6 mL of dry DMF in a dried and cooled 3 100 mL 3-necked round bottom flask.

reactant | Indole-5-carboxaldehyde | 1.45 g | N1C=CC2=CC(=CC=C12)C=O | C9H7NO
solvent | DMF | 8.6 mL | CN(C)C=O | C3H7NO
product | Indole | N1C=CC2=CC=CC=C12 | C8H7N
